US07320972B2
4-{(2S,3R)-3-[(3S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl acetate (70 mg, 0.11 mmol) was dissolved in methanol (2.45 mL). Water (0.73 mL) was added dropwise followed by triethylamine (2.2 mL) and the reaction stirred at room temperature for 1 h. Toluene (3 mL) and methanol (5 mL) were added and the reaction was concentrated to give 69 mg of crude (3R,4S)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3,3′-dihydroxybiphenyl-4-yl)-1-phenylazetidin-2-one which was used without further purification.

reactant | 4-{(2S,3R)-3-[(3S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl acetate | 0.11 mmol, 70 mg | C(C)(=O)OC=1C=C(C=CC1[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)C1=CC(=CC=C1)O | C38H42FNO5Si
reactant | Water | 0.73 mL | O | H2O
reactant | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | Toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 2.45 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | (3R,4S)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3,3′-dihydroxybiphenyl-4-yl)-1-phenylazetidin-2-one | 69 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CC[C@H]1C(N([C@@H]1C1=C(C=C(C=C1)C1=CC(=CC=C1)O)O)C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C36H40FNO4Si
